US07420001B2
To 4.4 g (17.7 mmol) of 4-hydroxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester was added 40 mL of carbon tetrachloride, the mixture was cooled with an water/ice bath while 1 equivalent of N-iodosuccinimide was added in small portions. After stirring at 0° C. for 3 h, the reaction mixture was loaded onto a column and purified by column chromatography to give 2.55 g mg (38% yield) of 5-iodo-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester as a white solid.

reactant | 4-hydroxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester | 17.7 mmol, 4.4 g | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)O | C14H16O4
reactant | N-iodosuccinimide | 1 equivalent | IN1C(CCC1=O)=O | C4H4INO2
solvent | carbon tetrachloride | 40 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-iodo-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid tert-butyl ester | 38% yield | C(C)(C)(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2)I)O | C14H15IO4
